US06958418B2
b) Synthesis of Vanillylamine
The reaction mixture obtained in a) is combined with 38 ml of hydrochloric acid and 6.2 g of Pd/C. Hydrogen is piped into the reaction mixture, with stirring, at 10° C. over a period of 4 hours under a pressure of 4 bar. After the addition of 71 ml of water the mixture is heated to 60° C. and stirred for 1 hour. The catalyst is filtered off and the acetic acid is eliminated from the filtrate by distillation at 60° C. Then the reaction mixture is combined with 141 ml of water in order to dissolve the vanillylamine hydrochloride and the salts and stirred at 60° C. for 0.5 hours. After the addition of 99 ml of hydrochloric acid and stirring for 1 hour, the suspension formed is cooled to 3° C. and after 3 hours the vanillylamine hydrochloride is filtered off, washed with acetone and dried at 50° C.

reactant | hydrochloric acid | 38 ml | Cl | ClH
reactant | Hydrogen | [H][H] | H2
reactant | vanillylamine hydrochloride | Cl.C(C1=CC(OC)=C(O)C=C1)N
catalyst | Pd/C | 6.2 g | [Pd] | Pd
solvent | water | 71 ml | O | H2O
product | Vanillylamine | C(C1=CC(OC)=C(O)C=C1)N | C8H11NO2
